US07192968B2
(1S,2S)-2-tert-Butoxycarbonylamino-1-cyclohexanol
(1S,2S)-2-Amino-1-cyclohexanol (J. Med. Chem., 1998, Vol. 41, p. 38) (0.83 g) was dissolved in dichloromethane (10 ml), and to the solution di-tert-butyl dicarbonate (1.64 g) was added, and the mixture was stirred at room temperature for 2 hours. The solvent was distilled off under reduced pressure, and the resultant solids were recrystallized from hexane:ethyl acetate=20:1 to obtain the title compound (1.33 g) as colorless needle crystals.

reactant | (1S,2S)-2-Amino-1-cyclohexanol | 0.83 g | N[C@@H]1[C@H](CCCC1)O | C6H13NO
reactant | di-tert-butyl dicarbonate | 1.64 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (1S,2S)-2-tert-Butoxycarbonylamino-1-cyclohexanol | 1.33 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](CCCC1)O | C11H21NO3
